US08334295B2
A mixture of 4-chloro-3,5-dimethyl-benzonitrile (1.011 g, 6.10 mmol), N-bromosuccinimide (1.087 g, 6.10 mmol) and benzoyl peroxide (0.074 g, 0.305 mmol) in carbon tetrachloride (30 mL) was heated to reflux for 4 hr. The reaction mixture was cooled to room temperature and filtered. The filtrate was purified by flash column chromatography (silica gel, 0 to 30% ethyl acetate/hexane) to give 3-bromomethyl-4-chloro-5-methyl-benzonitrile as an impure white solid (0.9938 g, 66%), which was used in the next step without further purification.

reactant | 4-chloro-3,5-dimethyl-benzonitrile | 6.10 mmol, 1.011 g | ClC1=C(C=C(C#N)C=C1C)C | C9H8ClN
reactant | N-bromosuccinimide | 6.10 mmol, 1.087 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.305 mmol, 0.074 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-bromomethyl-4-chloro-5-methyl-benzonitrile | 0.9938 g, 66% | BrCC=1C=C(C#N)C=C(C1Cl)C | C9H7BrClN
